US07560596B2
Synthesis of 2′-hydroxy-biphenyl-4-carboxylic acid (FIG. 3, Entry 2)
The general procedure described in Example 3 was used with 4-chlorobenzoic acid (157 mg, 1.00 mmol), 2-hydroxyphenylboronic acid (166 mg, 1.20 mmol), Pd(OAc)2 (2.2 mg, 0.010 mmol, 1 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (10.0 mg, 0.020 mmol, 2 mol %), K2CO3 (414 mg, 3.00 mmol), water (2.0 mL), 12 h, 100° C. The product was isolated as a white solid (203 mg, 95%). Mp=186° C. 1H NMR (400 MHz, d4-MeOH) δ: 8.04 (d, 2H, J=8.4 Hz), 7.65 (d, 2H, J=8.4 Hz), 7.25 (dd, 1H, J=7.6 Hz, 1.6 Hz), 7.16 (td, 1H, J=7.6 Hz, 1.6 Hz), 6.89 (m, 2H). 13C NMR (125 MHz, d4-MeOH) δ: 170.2, 155.6, 145.4, 131.7, 130.5 (2), 130.48, 130.4, 129.8, 128.7, 121.2, 117.2. IR (neat, cm−1): 3391, 2529, 1683, 1274, 1008, 753.

reactant | 4-chlorobenzoic acid | 1.00 mmol, 157 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | 2-hydroxyphenylboronic acid | 1.20 mmol, 166 mg | OC1=C(C=CC=C1)B(O)O | C6H7BO3
reactant | K2CO3 | 3.00 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.010 mmol, 2.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.020 mmol, 10.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 2.0 mL | O | H2O
product | 2′-hydroxy-biphenyl-4-carboxylic acid | 203 mg, 95% | OC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
